* Z:\mnt\design.r\spice\examples\3591.asc
L1 IN N001 22µ
V1 IN 0 5
C1 N004 0 2.2µ
R1 N004 N002 10
D1 N002 0 NSPW500BS
V2 N003 0 PULSE(.5 1.25 .2m .2m .2m 1m 2.4m)
XU1 IN 0 N001 N004 N002 N003 LT3591
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT3591.sub
.backanno
.end
